US05137035
To a solution of 13.5 g (66.0 mmoles) of aluminum isopropoxide in 100 ml of toluene was added 2.0 g (11.0 mmoles) of 6-(carbethoxymethyl)-2-cyclohexen-1-one at room temperature, and the solution was heated to 90° C. for 18 hours. The solution was cooled to room temperature, and aqueous saturated sodium hydrogen tartrate and ethyl acetate were added. The aqueous layer was extracted with ethyl acetate, and the combined ethyl acetate extracts were dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The crude material was purified by Kugelrohr distillation (bp 40°-80° C./0.01 mm Hg) to yield 1.3 g (86%) of cis 3a,4,5,7a-tetrahydro-2(3H)-benzofuranone, as confirmed by NMR and IR data.

reactant | aluminum isopropoxide | 66.0 mmoles, 13.5 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 6-(carbethoxymethyl)-2-cyclohexen-1-one | 11.0 mmoles, 2.0 g | C(=O)(OCC)CC1CCC=CC1=O | C10H14O3
reactant | sodium hydrogen tartrate | C(=O)(O)C(O)C(O)C(=O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | cis 3a,4,5,7a-tetrahydro-2(3H)-benzofuranone | 1.3 g, 86% | O1C(C[C@H]2[C@@H]1C=CCC2)=O | C8H10O2
